US08563575B2
To a stirred mixture of [1-ethyl-3-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl]methyl acetate (150 mg) and EtOH (3 mL) was added 1 N NaOH (2 mL) at 0° C. The mixture was stirred at 0° C. for 30 min, treated with saturated NH4Cl solution, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was dissolved in DMA (4 ml) and KOtBu (52 mg) was added at room temperature. The mixture was stirred for 2 min, and then 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (97 mg) was added. The mixture was stirred at 150° C. for 30 min, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on NH-silica gel eluting with AcOEt/MeOH=20/1. The product was crystallized from AcOEt/Hexane to give 1-ethyl-7-(hydroxymethyl)-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (46 mg).

reactant | [1-ethyl-3-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl]methyl acetate | 150 mg | C(C)(=O)OCC1=C2C(=NC=C1)N(C(N2CC)=O)C2=CC=C(C=C2)O | C17H17N3O4
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 1-ethyl-7-(hydroxymethyl)-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 46 mg | C(C)N1C(N(C2=NC=CC(=C21)CO)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C)=O | C22H20N6O3
